US07511145B2
Preparation of 2-[2-(4-amino-4′-chloro-biphen-2-yl)-quinolin-6-yl]-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid (Compound 569)
1-(4′-Chloro-4-nitro-biphen-2-yl)-ethanone (69 mg, 0.25 mmol) and 2-(4-amino-3-formyl-phenyl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester (98 mg, 0.25 mmol) were dissolved in 500 μL ethanol and 500 μL 10% ethanolic KOH were added. The reaction was stirred at 75° C. for 3 days. The reaction was acidified with 4N hydrochloric acid, extracted three times with ethyl acetate, the organic extracts were dried with sodium sulfate and then evaporated. Purification via reverse-phase HPLC gave 18 mg product.

reactant | 1-(4′-Chloro-4-nitro-biphen-2-yl)-ethanone | 0.25 mmol, 69 mg | ClC1=CC=C(C2=CC=C(C=C2C(C)=O)[N+](=O)[O-])C=C1 | C14H10ClNO3
reactant | 2-(4-amino-3-formyl-phenyl)-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid ethyl ester | 0.25 mmol, 98 mg | C(C)OC(=O)C1=CC2=C(N(C(=N2)C2=CC(=C(C=C2)N)C=O)C2CCCCC2)C=C1 | C23H25N3O3
reactant | KOH | 500 μL | [OH-].[K+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethanol | 500 μL | C(C)O | C2H6O
product | 2-[2-(4-amino-4′-chloro-biphen-2-yl)-quinolin-6-yl]-1-cyclohexyl-1H-benzoimidazole-5-carboxylic acid | 18 mg | NC=1C=C(C(=CC1)C1=CC=C(C=C1)Cl)C1=NC2=CC=C(C=C2C=C1)C1=NC2=C(N1C1CCCCC1)C=CC(=C2)C(=O)O | C35H29ClN4O2
